US07947684B2
A. (2-Chloropyridin-4-yl)carbamic acid tert-butyl ester
Sodium bis(trimethylsilyl)amide (90 mL of 1M in THF, 90 mmol) was added slowly to a stirring solution of 4-amino-2-chloropyridine (5.79 g, 45 mmol) in THF (100 mL) at room temperature under nitrogen. Left at room temperature for 15 minutes before adding dropwise a solution of di-tert-butyl dicarbonate (8.95 g, 41 mmol) in THF (50 mL). After 2 hours the solvent was removed in vacuo, and 0.1N HCl (100 mL) added to the residue, and extracted with ethyl acetate. Washed ethyl acetate with 0.1N HCl, dried organics over magnesium sulfate, and concentrated to dryness. The slightly crude yellow solid was washed with cold diethyl ether (3×20 mL) to give the pure product as a cream solid (6.43 g, 28 mmol). 1H NMR (CDCl3) δ 8.17 (d, 1H), 7.49 (d, 1H), 7.15 (dd, 1H), 6.95 (br s, 1H), 1.51 (s, 9H). ESI MS (M+1)+: 229, 331 (Cl).

reactant | Sodium bis(trimethylsilyl)amide | 90 mmol, 1M, 90 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-amino-2-chloropyridine | 45 mmol, 5.79 g | NC1=CC(=NC=C1)Cl | C5H5ClN2
reactant | di-tert-butyl dicarbonate | 41 mmol, 8.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (2-Chloropyridin-4-yl)carbamic acid tert-butyl ester | 28 mmol, 6.43 g | C(C)(C)(C)OC(NC1=CC(=NC=C1)Cl)=O | C10H13ClN2O2
